* Q:\Dropbox\uni\2017s\etglu\etglu2017s\lu2_ltspice_simulation\Simulation2\Draft1.asc
V1 N001 0 AC 0.5 0
L1 N002 0 1m
R1 N002 N001 180
.ac dec 100 1 1000000
.backanno
.end
