* Q:\Dropbox\uni\2017s\etglu\etglu2017s\lu2_ltspice_simulation\Simulation2\aufgabe3_RLC.asc
V1 N001 0 SINE(0 0.5 15k 0)
R1 N003 N002 22
C1 NC_01 0 100n
L1 N001 N002 1m Rser=0
;ac dec 100 1 1MEG
.tran 0 0.1 0
.backanno
.end
