* Q:\Dropbox\uni\2017s\etglu\etglu2017s\lu3_ltspice_simulation\img\aufgabe2_invertierender_verstaerker_sinus2.asc
XU1 0 N002 +15V -15V N003 LT1013
V2 0 -15V 15
V3 +15V 0 15
R1 N002 N001 1k
R2 N003 N002 4.7k
V1 N001 0 SINE() AC 0.1
.ac dec 100 1 10MEG
.lib LTC.lib
.backanno
.end
